********************
* Version 1.1.0a
.SUBCKT BFR92 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XBFR92
.ENDS
********************
.SUBCKT XBFR921 2 3 
CBPAD 1 3 1E-13 
CEPAD 2 3 1E-13 
Q1 1 2 3 DBFR92
.ENDS
********************
.MODEL DBFR92 NPN 
+ IS = 4.163E-16 
+ BF = 92 
+ NF = 0.9964 
+ VAF = 40 
+ IKF = 0.65 
+ ISE = 1.216E-14 
+ NE = 1.658 
+ BR = 6.355 
+ NR = 0.9843 
+ VAR = 2.6 
+ IKR = 0.034 
+ ISC = 2.469E-16 
+ NC = 1.1 
+ RB = 23 
+ IRB = 1E-05 
+ RBM = 23 
+ RE = 0.55 
+ RC = 10 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9E-13 
+ VJE = 0.864 
+ MJE = 0.383 
+ CJC = 6.2E-13 
+ VJC = 0.472 
+ MJC = 0.228 
+ XCJC = 0.1 
+ TF = 1.7E-11 
+ XTF = 500 
+ VTF = 0.9 
+ ITF = 0.5 
+ PTF = 40 
+ TR = 1E-09 
+ FC = 0.9 

