********************
* Version 1.1.0a
.SUBCKT BFR93 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XBFR93
.ENDS 
********************
.SUBCKT XBFR93 1 2 3 
CBPAD 1 3 1.1E-13 
CEPAD 2 3 1.1E-13 
Q1 1 2 3 DBFR93 
.ENDS
********************
.MODEL DBFR93 NPN 
+ IS = 4.499E-16 
+ BF = 100 
+ NF = 0.9861 
+ VAF = 36 
+ IKF = 3 
+ ISE = 7.014E-14 
+ NE = 1.955 
+ BR = 11.95 
+ NR = 0.985 
+ VAR = 2.8 
+ IKR = 0.02 
+ ISC = 9.97E-16 
+ NC = 1.1 
+ RB = 10 
+ IRB = 1E-05 
+ RBM = 10 
+ RE = 0.48 
+ RC = 4 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.72E-12 
+ VJE = 0.88 
+ MJE = 0.37 
+ CJC = 1.2E-12 
+ VJC = 0.553 
+ MJC = 0.297 
+ XCJC = 0.25 
+ TF = 1.6E-11 
+ XTF = 500 
+ VTF = 0.9 
+ ITF = 0.9 
+ PTF = 49 
+ TR = 1E-09 
+ FC = 0.9 

