********************
* Version 1.1.0a
.SUBCKT BFS17 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XBFS17 
.ENDS
********************
.SUBCKT XBFS17 1 2 3 
CBPAD 1 2 5E-14 
CEPAD 1 3 5E-14 
Q1 1 2 3 DBFS17 
.ENDS
********************

.MODEL DBFS17 NPN 
+ IS = 3.157E-16 
+ BF = 102 
+ NF = 0.9953 
+ VAF = 28 
+ IKF = 0.12 
+ ISE = 4.184E-15 
+ NE = 1.623 
+ BR = 46 
+ NR = 0.9952 
+ VAR = 9 
+ IKR = 0.022 
+ ISC = 1.004E-15 
+ NC = 1.108 
+ RB = 4 
+ IRB = 8E-05 
+ RBM = 4 
+ RE = 0.55 
+ RC = 2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9.45E-13 
+ VJE = 0.676 
+ MJE = 0.2361 
+ CJC = 1.1E-12 
+ VJC = 0.5166 
+ MJC = 0.2761 
+ XCJC = 0.4 
+ TF = 6.7E-11 
+ XTF = 150 
+ VTF = 0.6 
+ ITF = 0.75 
+ PTF = 21 
+ TR = 1E-09 
+ FC = 0.96 

