********************
* Version 1.1.0a
.SUBCKT MMBR5031 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR5031
.ENDS
********************
.SUBCKT XMBR5031 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 6.5E-14 
Q1 1 2 3 DMBR5031 
.ENDS
********************
.MODEL DMBR5031 NPN 
+ IS = 1.047E-16 
+ BF = 64 
+ NF = 0.9751 
+ VAF = 52 
+ IKF = 0.13 
+ ISE = 1.467E-14 
+ NE = 1.929 
+ BR = 4.765 
+ NR = 0.9705 
+ VAR = 8 
+ IKR = 0.005 
+ ISC = 3.754E-16 
+ NC = 1.1 
+ RB = 3.2 
+ IRB = 8E-05 
+ RBM = 3.2 
+ RE = 0.5 
+ RC = 5 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.426E-12 
+ VJE = 0.7247 
+ MJE = 0.276 
+ CJC = 1.024E-12 
+ VJC = 0.8495 
+ MJC = 0.38 
+ XCJC = 0.34 
+ TF = 9.2E-11 
+ XTF = 500 
+ VTF = 0.8 
+ ITF = 1.1 
+ PTF = 18 
+ TR = 1E-09 
+ FC = 0.95 

