********************
* Version 1.1.0a
.SUBCKT MMBR521 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
CCG 199 0 1E-13 
CBG 201 0 1E-13 
CEG 301 0 1E-13 
X1 199 299 399 XMMBR521
.ENDS
********************
.SUBCKT XMMBR521 100 200 300 
CEPAD 300 100 2.4E-13 
CBPAD 200 100 2.4E-13 
Q1 100 200 300 DMMBR521 
.ENDS
********************
.MODEL DMMBR521 PNP 
+ IS = 1.755E-15 
+ BF = 107 
+ NF = 1.004 
+ VAF = 15 
+ IKF = 0.13 
+ ISE = 2.178E-13 
+ NE = 1.51 
+ BR = 47 
+ NR = 0.9993 
+ VAR = 3 
+ IKR = 0.0038 
+ ISC = 4.18E-15 
+ NC = 1.283 
+ RB = 1 
+ IRB = 1.2E-05 
+ RBM = 0.3 
+ RE = 1 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 0.83 
+ MJE = 0.38 
+ CJC = 1.7E-12 
+ VJC = 0.712 
+ MJC = 0.425 
+ XCJC = 0.5 
+ TF = 4.8E-11 
+ XTF = 9.936 
+ VTF = 0.8 
+ ITF = 0.2 
+ PTF = 10 
+ TR = 8.2E-09 
+ FC = 0.9 

