********************
* Version 1.1.0a
.SUBCKT MMBR571 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR571 
.ENDS
********************
.SUBCKT XMBR571 1 2 3 
CBPAD 2 1 7E-14 
CEPAD 1 3 7E-14 
Q1 1 2 3 DMBR571 
.ENDS
********************
.MODEL DMBR571 NPN 
+ IS = 2.8E-15 
+ BF = 185 
+ NF = 1.005 
+ VAF = 22 
+ IKF = 10 
+ ISE = 2.093E-14 
+ NE = 1.641 
+ BR = 14 
+ NR = 1.005 
+ VAR = 2.2 
+ IKR = 0.25 
+ ISC = 1.196E-15 
+ NC = 1.1 
+ RB = 5 
+ IRB = 8E-05 
+ RBM = 5 
+ RE = 0.3 
+ RC = 1 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 3E-12 
+ VJE = 0.92 
+ MJE = 0.44 
+ CJC = 1.8E-12 
+ VJC = 0.641 
+ MJC = 0.406 
+ XCJC = 0.15 
+ TF = 1.25E-11 
+ XTF = 500 
+ VTF = 1 
+ ITF = 2 
+ PTF = 55 
+ TR = 1E-09 
+ FC = 0.95 
