********************
* Version 1.1.0a
.SUBCKT MMBR901 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR901 
.ENDS
********************
.SUBCKT XMBR901 1 2 3 
CBPAD 1 2 2.4E-13 
CEPAD 1 3 2.4E-13 
Q1 1 2 3 DMBR901 
.ENDS
********************
.MODEL DMBR901 NPN 
+ IS = 3.698E-16 
+ BF = 100 
+ NF = 1.003 
+ VAF = 46 
+ IKF = 0.7 
+ ISE = 8.812E-15 
+ NE = 1.573 
+ BR = 125.2 
+ NR = 0.9945 
+ VAR = 5 
+ IKR = 1 
+ ISC = 6.423E-15 
+ NC = 1.133 
+ RB = 3 
+ IRB = 8E-05 
+ RBM = 3 
+ RE = 0.4 
+ RC = 32 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.6E-12 
+ VJE = 0.826 
+ MJE = 0.348 
+ CJC = 5.5E-13 
+ VJC = 0.604 
+ MJC = 0.315 
+ XCJC = 0.5 
+ TF = 1.6E-11 
+ XTF = 500 
+ VTF = 1.6 
+ ITF = 0.3 
+ PTF = 85 
+ TR = 1E-09 
+ FC = 0.95 
