********************
* Version 1.1.0a
.SUBCKT MMBR911 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR911
.ENDS
********************
.SUBCKT XMBR911 1 2 3 
CBPAD 1 3 6E-14 
CEPAD 2 3 6E-14 
Q1 1 2 3 DMBR911 
.ENDS
********************
.MODEL DMBR911 NPN 
+ IS = 1.359E-15 
+ BF = 170 
+ NF = 0.9957 
+ VAF = 37 
+ IKF = 1.8 
+ ISE = 5.183E-14 
+ NE = 1.904 
+ BR = 13.1 
+ NR = 0.9943 
+ VAR = 2.1 
+ IKR = 0.062 
+ ISC = 1.23E-15 
+ NC = 1.246 
+ RB = 14 
+ IRB = 1E-05 
+ RBM = 14 
+ RE = 0.4 
+ RC = 3 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.147E-12 
+ VJE = 1.036 
+ MJE = 0.5483 
+ CJC = 1.1E-12 
+ VJC = 0.548 
+ MJC = 0.3024 
+ XCJC = 0.11 
+ TF = 1.4E-11 
+ XTF = 500 
+ VTF = 0.9 
+ ITF = 1.1 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.93 

