********************
* Version 1.1.0a
.SUBCKT MMBR920 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR920 
.ENDS
********************
.SUBCKT XMBR920 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 6.5E-14 
Q1 1 2 3 DMBR920 
.ENDS
********************
.MODEL DMBR920 NPN 
+ IS = 6.04E-16 
+ BF = 84 
+ NF = 0.9956 
+ VAF = 26 
+ IKF = 0.29 
+ ISE = 1.41E-14 
+ NE = 1.662 
+ BR = 32 
+ NR = 0.995 
+ VAR = 3.8 
+ IKR = 0.013 
+ ISC = 1.713E-16 
+ NC = 1.053 
+ RB = 21 
+ IRB = 8E-05 
+ RBM = 21 
+ RE = 0.35 
+ RC = 5 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.28E-12 
+ VJE = 0.987 
+ MJE = 0.47 
+ CJC = 6.624E-13 
+ VJC = 0.2 
+ MJC = 0.2525 
+ XCJC = 0.35 
+ TF = 2.1E-11 
+ XTF = 500 
+ VTF = 1.2 
+ ITF = 1 
+ PTF = 47 
+ TR = 1E-09 
+ FC = 0.95 
