********************
* Version 1.1.0a
* The Gummel-Poon BJT model does not model the
* distributed resistance and capacitance of the base-
* collector region. Normally this is not a significant
* problem because most low-power RF parts have low
* overall base-region resistance (8-12 ohms). However,
* the MMBR931 device has a much higher overall
* resistance in the base, and so requires an improved
* distribution of base-collector resistance and
* capacitance.
* This improved distribution is accomplished by adding
* a 3-stage ladder of resistors and diodes between the
* external base and collector nodes of the Gummel-Poon
* model (see the XMBR931 sub-circuit). When the
* transitor is in the forward-active mode (B-E
* junction forward biased, B-C junction reverse
* biased), the diodes model the voltage-dependent
* capacitance of the B-C junction.
* If the B-C junction becomes forward-biased by a
* voltage greater than FC * VJC, the diodes are turned
* off, relative to the B-C junction of the BJT. This
* is accomplished by setting the saturation current
* (IS) of the diodes to 1/1000th that of the
* transistor. This model's accuracy when the B-C
* junction is forward-biased into diode turn-off
* region is unknown, and likely not usable for even
* preliminary design work.
********************
.SUBCKT MMBR931 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR931
.ENDS
********************
.SUBCKT XMBR931 1 2 3 
RB1 2 4 6 
RB2 4 5 6 
RB3 5 6 40 
DBC1 2 1 A931BCEX 
DBC2 4 1 A931BCEX
DBC3 5 1 A931BCEX
CBPAD 2 1 1.2E-13 
CEPAD 3 1 1.2E-13 
Q1 1 6 3 DMBR931 
.ENDS
********************
.MODEL A931BCEX D 
+ IS = 2.865E-20 
+ TT = 2E-11 
+ CJO = 2.6E-14 
+ VJ = 0.25 
+ M = 0.18 
********************
.MODEL DMBR931 NPN 
+ IS = 2.865E-17 
+ BF = 100.5 
+ NF = 1 
+ VAF = 35 
+ IKF = 0.013 
+ ISE = 1.83E-14 
+ NE = 2.235 
+ BR = 3.934 
+ NR = 0.9992 
+ VAR = 4 
+ IKR = 0.001817 
+ ISC = 3.749E-17 
+ NC = 1.1 
+ RB = 1 
+ IRB = 1.992E-05 
+ RBM = 1 
+ RE = 1.3 
+ RC = 40 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1E-13 
+ VJE = 0.7 
+ MJE = 0.27 
+ CJC = 2.6E-14 
+ VJC = 0.25 
+ MJC = 0.18 
+ XCJC = 0.5 
+ TF = 2E-11 
+ XTF = 29 
+ VTF = 1.2 
+ ITF = 0.028 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.5 
