********************
* Version 1.0.1a
.SUBCKT MRF5211  100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.4E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.4E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.4E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.9E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF5211 
.ENDS
********************
.SUBCKT XMRF5211 100 200 300 
CEPAD 300 100 2.4E-13 
CBPAD 200 100 2.4E-13 
Q1 100 200 300 DMRF5211 
.ENDS
********************
.MODEL DMRF5211 PNP 
+ IS = 1.755E-15 
+ BF = 107 
+ NF = 1.004 
+ VAF = 15 
+ IKF = 0.13 
+ ISE = 2.178E-13 
+ NE = 1.51 
+ BR = 47 
+ NR = 0.9993 
+ VAR = 3 
+ IKR = 0.0038 
+ ISC = 4.18E-15 
+ NC = 1.283 
+ RB = 1 
+ IRB = 1.2E-05 
+ RBM = 0.3 
+ RE = 1 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.9E-12 
+ VJE = 0.83 
+ MJE = 0.38 
+ CJC = 1.7E-12 
+ VJC = 0.712 
+ MJC = 0.425 
+ XCJC = 0.5 
+ TF = 4.8E-11 
+ XTF = 9.936 
+ VTF = 0.8 
+ ITF = 0.2 
+ PTF = 10 
+ TR = 1.0E-09 
+ FC = 0.9 
