********************
* Version 1.0.0a
.SUBCKT MRF5812 100 200 300 
LC1 100 10 1.8E-10 
LB1 200 14 1.9E-10 
LE1 300 18 1.33E-10 
CB1 14 18 2.6E-13 
CC1 10 18 2.6E-13 
CC2 9 17 2.6E-13 
CC3 8 16 2.6E-13 
LB4 12 11 1.9E-10 
LBB 11 5 7.5E-10 
LEB 6 15 3.75E-10 
LE4 15 16 1.33E-10 
LC2 10 9 1.8E-10 
LC3 9 8 1.8E-10 
LB2 14 13 1.9E-10 
LB3 13 12 1.9E-10 
CB2 13 17 2.6E-13 
CB3 12 16 2.6E-13 
LE2 18 17 1.33E-10 
LE3 17 16 1.33E-10 
X1 8 5 6 XMRF5812 
.ENDS
********************
.SUBCKT XMRF5812 1 2 3 
CBPAD 2 1 2.2E-13 
CEPAD 1 3 2.2E-13 
Q1 1 2 3 DMRF5812 
.ENDS
********************
.MODEL DMRF5812 NPN 
+ IS = 6.363E-15 
+ BF = 131.4 
+ NF = 1.004 
+ VAF = 50 
+ IKF = 6 
+ ISE = 5.709E-14 
+ NE = 1.808 
+ BR = 18 
+ NR = 1 
+ VAR = 3.3 
+ IKR = 5 
+ ISC = 2.98E-15 
+ NC = 1.121 
+ RB = 2.3 
+ IRB = 1E-05 
+ RBM = 2.3 
+ RE = 0.9 
+ RC = 2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.5E-12 
+ VJE = 0.971 
+ MJE = 0.4941 
+ CJC = 3.7E-12 
+ VJC = 0.7 
+ MJC = 0.5 
+ XCJC = 0.5 
+ TF = 1.7E-11 
+ XTF = 40 
+ VTF = 1 
+ ITF = 2 
+ PTF = 35 
+ TR = 1E-09 
+ FC = 0.95 
********************

