********************
* Version 1.0.0a
.SUBCKT MRF8372 100 200 300 
LC1 100 10 1.8E-10 
LB1 200 14 1.3E-10 
LE1 300 18 9.1E-11 
CB1 14 18 2.4E-13 
CC1 10 18 2.4E-13 
CC2 9 17 2.4E-13 
CC3 8 16 2.4E-13 
LB4 12 11 1.3E-10 
LBB 11 5 7.5E-10 
LEB 6 15 3.75E-10 
LE4 15 16 9.1E-11 
LC2 10 9 1.8E-10 
LC3 9 8 1.8E-10 
LB2 14 13 1.3E-10 
LB3 13 12 1.3E-10 
CB2 13 17 2.4E-13 
CB3 12 16 2.4E-13 
LE2 18 17 9.1E-11 
LE3 17 16 9.1E-11 
X1 8 5 6 XRF8372
.ENDS
********************
.SUBCKT XRF8372 1 2 3 
CBPAD 1 3 2.2E-13 
CEPAD 2 3 2.2E-13 
Q1 1 2 3 DRF8372 
.ENDS
********************
.MODEL DRF8372 NPN 
+ IS = 2.348E-15 
+ BF = 106 
+ NF = 0.9891 
+ VAF = 37 
+ IKF = 30 
+ ISE = 1.701E-14 
+ NE = 1.585 
+ BR = 56 
+ NR = 0.9928 
+ VAR = 3.8 
+ IKR = 0.2 
+ ISC = 3.678E-15 
+ NC = 1.096 
+ RB = 2 
+ IRB = 8E-05 
+ RBM = 1 
+ RE = 0.85 
+ RC = 1.2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.254E-12 
+ VJE = 0.8789 
+ MJE = 0.6388 
+ CJC = 4.08E-12 
+ VJC = 0.608 
+ MJC = 0.3829 
+ XCJC = 0.33 
+ TF = 1.9E-11 
+ XTF = 500 
+ VTF = 5.207 
+ ITF = 4.868 
+ PTF = 48 
+ TR = 1E-09 
+ FC = 0.9058

