********************
* Version 1.0.0a
.SUBCKT MRF9011 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.4E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.4E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.4E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.9E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF9011 
.ENDS
********************
.SUBCKT XMRF9011 1 2 3 
CBPAD 2 1 8E-14 
CEPAD 1 3 8E-14 
Q1 1 2 3 DMRF9011 
.ENDS
********************
.MODEL DMRF9011 NPN 
+ IS = 2.834E-16 
+ BF = 87 
+ NF = 0.985 
+ VAF = 44 
+ IKF = 10 
+ ISE = 3.645E-14 
+ NE = 1.989 
+ BR = 6 
+ NR = 0.9903 
+ VAR = 7 
+ IKR = 0.018 
+ ISC = 4.705E-16 
+ NC = 1.148 
+ RB = 5 
+ IRB = 8E-05 
+ RBM = 5 
+ RE = 0.65 
+ RC = 12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.7E-12 
+ VJE = 0.94 
+ MJE = 0.4 
+ CJC = 9.3E-13 
+ VJC = 0.545 
+ MJC = 0.3 
+ XCJC = 0.05 
+ TF = 2.3E-11 
+ XTF = 400 
+ VTF = 0.5 
+ ITF = 0.5 
+ PTF = 40 
+ TR = 1E-09 
+ FC = 0.6 
********************

