********************
* Version 1.1.0a
.SUBCKT MRF917 100 200 300 
LCL 100 199 4.4E-10 
LBL 200 201 2.6E-10 
LBB 201 299 7.5E-10 
LEL 300 301 2.6E-10 
LEB 301 399 7.5E-10 
CCB 201 199 8E-14 
CCE 199 301 2.2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF917
.ENDS
********************
.SUBCKT XMRF917 1 2 3 
CBPAD 1 3 8E-14 
CEPAD 2 3 8E-14 
Q1 1 2 3 DMRF917
.ENDS
*******************
.MODEL DMRF917 NPN 
+ IS = 9.555E-16 
+ BF = 92 
+ NF = 0.9989 
+ VAF = 30 
+ IKF = 0.7 
+ ISE = 8.145E-14 
+ NE = 1.916 
+ BR = 15.5 
+ NR = 0.9911 
+ VAR = 3.3 
+ IKR = 0.021 
+ ISC = 7.388E-16 
+ NC = 1.103 
+ RB = 12 
+ IRB = 0.001 
+ RBM = 12 
+ RE = 2.2 
+ RC = 4 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.5E-12 
+ VJE = 0.9402 
+ MJE = 0.4392 
+ CJC = 1.1E-12 
+ VJC = 0.5411 
+ MJC = 0.2986 
+ XCJC = 0.27 
+ TF = 1.5E-11 
+ XTF = 500 
+ VTF = 1.1 
+ ITF = 1 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.85 
