********************
* Version 1.1.0a
.SUBCKT MRF927 100 200 300 
LCL 100 199 2.5E-10 
LBL 200 201 2.4E-10 
LBB 201 299 6E-10 
LEL 300 301 2.4E-10 
LEB 301 399 6E-10 
CCB 201 199 4E-14 
CCE 199 301 2.8E-13 
CBE 201 301 1.4E-13 
X1 199 299 399 XMRF927
.ENDS
********************
.SUBCKT XMRF927 1 2 3 
CBPAD 2 1 2E-14 
CEPAD 1 3 4E-14 
Q1 1 2 3 DMRF927 
.ENDS
********************
.MODEL DMRF927 NPN 
+ IS = 1.871E-16 
+ BF = 133 
+ NF = 0.9958 
+ VAF = 40 
+ IKF = 0.07 
+ ISE = 5.393E-12 
+ NE = 4.933 
+ BR = 17 
+ NR = 0.9929 
+ VAR = 2.6 
+ IKR = 0.018 
+ ISC = 2.892E-17 
+ NC = 1.049 
+ RB = 31 
+ IRB = 8E-05 
+ RBM = 31 
+ RE = 3.3 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 2.8E-13 
+ VJE = 0.884 
+ MJE = 0.318 
+ CJC = 2.9E-13 
+ VJC = 0.424 
+ MJC = 0.108 
+ XCJC = 0.2 
+ TF = 1.3E-11 
+ XTF = 500 
+ VTF = 1.1 
+ ITF = 0.35 
+ PTF = 50 
+ TR = 2.38E-09 
+ FC = 0.9 

