********************
* Version 1.0.0a
.SUBCKT MRF9331 100 200 300 
CCE22 100 351 8E-14 
LC 100 102 4E-10 
LB 200 202 1.5E-10 
CBC 102 202 3E-14 
CBE2 202 353 7E-14 
CBE1 200 301 3E-14 
CCE1 102 303 1.3E-13 
CCE2 102 353 1.3E-13 
LE1 301 303 1.5E-10 
LE2 351 353 1.5E-10 
LBB 202 299 8E-10 
LEB1 303 399 8E-10 
LEB2 353 399 8E-10 
RCC 102 199 1E-06 
RX1 300 301 1E-06 
RX2 300 351 1E-06 
X1 199 299 399 XMRF9331 
.ENDS
********************
.SUBCKT XMRF9331 1 2 3 
CBPAD 2 1 3E-14 
CEPAD 1 3 3E-14 
Q1 1 2 3 DMRF9331
.ENDS
********************
.MODEL DMRF9331 NPN 
+ IS = 3.2E-17 
+ BF = 238.6 
+ NF = 0.992 
+ VAF = 44 
+ IKF = 0.01798 
+ ISE = 1.615E-14 
+ NE = 2.5 
+ BR = 8 
+ NR = 0.995 
+ VAR = 2 
+ IKR = 0.002 
+ ISC = 7.487E-17 
+ NC = 1.139 
+ RB = 54 
+ IRB = 0.0001 
+ RBM = 54 
+ RE = 1 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1E-13 
+ VJE = 0.9902 
+ MJE = 0.2063 
+ CJC = 1.6E-13 
+ VJC = 0.25 
+ MJC = 0.07 
+ XCJC = 0.13 
+ TF = 1.3E-11 
+ XTF = 30 
+ VTF = 0.7 
+ ITF = 0.05 
+ PTF = 30 
+ TR = 4.578E-09 
+ FC = 0.95 

