********************
* Version 1.0.1a
.SUBCKT MRF9411 100 200 300 
LCL1 100 101 1.8E-10 
LCL2 101 102 1.8E-10 
LCL3 102 199 1.8E-10 
LBL1 200 201 1.3E-10 
LBL2 201 202 1.3E-10 
LBL3 202 203 1.3E-10 
LBB 203 299 6.5E-10 
LEL11 350 351 1.3E-10 
LEL12 351 352 1.3E-10 
LEL13 352 353 1.3E-10 
LEB1 353 399 6.5E-10 
LEL21 340 341 1.3E-10 
LEL22 341 342 1.3E-10 
LEL23 342 343 1.3E-10 
LEB2 343 399 6.5E-10 
CBE11 201 351 1E-14 
CBE12 202 352 1E-14 
CBE21 203 343 3E-14 
CCB 203 199 1E-14 
CCE21 101 341 1.2E-13 
CCE22 102 342 1.2E-13 
CCE11 199 353 1.8E-13 
RX1 350 300 0.001 
RX2 340 300 0.001 
X1 199 299 399 XMRF9411 
.ENDS
********************
.SUBCKT XMRF9411 1 2 3 
CBPAD 2 1 4E-14 
CEPAD 1 3 8E-14 
Q1 1 2 3 DMRF9411 
.ENDS
********************
.MODEL DMRF9411 NPN 
+ IS = 4.558E-16 
+ BF = 136 
+ NF = 0.9979 
+ VAF = 21 
+ IKF = 0.7 
+ ISE = 3.087E-14 
+ NE = 2 
+ BR = 42 
+ NR = 0.993 
+ VAR = 2.9 
+ IKR = 0.016 
+ ISC = 3.411E-17 
+ NC = 1.087 
+ RB = 7 
+ IRB = 8E-05 
+ RBM = 8 
+ RE = 0.45 
+ RC = 8 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.6E-13 
+ VJE = 0.94 
+ MJE = 0.42 
+ CJC = 4.3E-13 
+ VJC = 0.35 
+ MJC = 0.21 
+ XCJC = 0.44 
+ TF = 1.3E-11 
+ XTF = 400 
+ VTF = 6 
+ ITF = 1.5 
+ PTF = 47 
+ TR = 1E-09 
+ FC = 0.98 
********************

