********************
* Version 1.1.1b
.SUBCKT MRF947 100 200 300 
LCL 100 199 3.4E-10 
LBL 200 201 2.9E-10 
LBB 201 299 7.8E-10 
LEL 300 301 2.9E-10 
LEB 301 399 7.8E-10 
CCB 201 199 4E-14 
CCE 199 301 2.2E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMRF947 
.ENDS
********************
.SUBCKT XMRF947 1 2 3 
CBPAD 2 1 6.5E-14 
CEPAD 1 3 13.0E-14 
Q1 1 2 3 DMRF947 
.ENDS
********************
.MODEL DMRF947 NPN 
+ IS = 4.536E-16 
+ BF = 130 
+ NF = 1.003 
+ VAF = 24 
+ IKF = 0.8 
+ ISE = 7.238E-13 
+ NE = 2.577 
+ BR = 21 
+ NR = 1 
+ VAR = 3.3 
+ IKR = 0.022 
+ ISC = 1.71E-15 
+ NC = 1.202 
+ RB = 8 
+ IRB = 8E-05 
+ RBM = 8 
+ RE = 0.65 
+ RC = 12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 9.2E-13 
+ VJE = 0.93 
+ MJE = 0.355 
+ CJC = 4E-13 
+ VJC = 0.357 
+ MJC = 0.237 
+ XCJC = 0.5 
+ TF = 1.2E-11 
+ XTF = 500 
+ VTF = 4 
+ ITF = 1.2 
+ PTF = 60 
+ TR = 1E-09 
+ FC = 0.95 

