********************
* Version 1.1.0a
.SUBCKT MRF949 100 200 300
LCL 100 199 4.6E-10
LBL 200 201 1.7E-10
LBB 201 299 6.2E-10
LEL 300 301 1.7E-10
LEB 301 399 6.2E-10
CCB 201 199 1.6E-13
CCE 199 301 2E-13
CBE 201 301 1.2E-13
X1 199 299 399 XMRF949
.ENDS
********************
.SUBCKT XMRF949 1 2 3
CBPAD 1 3 8E-14
CEPAD 2 3 1.6E-13
Q1 1 2 3 DMRF949
.ENDS
*******************
.MODEL DMRF949 NPN
+ IS = 4.598E-16
+ BF = 175
+ NF = 0.9904
+ VAF = 22
+ IKF = 0.8
+ ISE = 1.548E-14
+ NE = 1.703
+ BR = 76.1
+ NR = 0.9952
+ VAR = 2.1
+ IKR = 0.02059
+ ISC = 3.395E-16
+ NC = 1.13
+ RB = 8
+ IRB = 8E-05
+ RBM = 3
+ RE = 0.45
+ RC = 6
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.7E-13
+ VJE = 0.905
+ MJE = 0.389
+ CJC = 3.6E-13
+ VJC = 0.4907
+ MJC = 0.2198
+ XCJC = 0.43
+ TF = 1E-11
+ XTF = 50
+ VTF = 1.2
+ ITF = 0.32
+ PTF = 32
+ TR = 1E-09
+ FC = 0.9
